US07253171B2
2-Amino-N-cyclohexyl-N-methylbenzamide
A solution of the crude N-cyclohexyl-N-methyl-2-nitrobenzamide (1.05 g, 4 mmol) and a catalytic amount of Raney-Ni® in methanol (25 ml) was stirred overnight under hydrogen at room temperature. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The resulting crude was dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate. The organic layer was dried (MgSO4) and the solvents removed under reduced pressure to give (0.89 g, 96%) of the title compound as a white solid.

reactant | N-cyclohexyl-N-methyl-2-nitrobenzamide | 4 mmol, 1.05 g | C1(CCCCC1)N(C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C14H18N2O3
solvent | methanol | 25 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 2-Amino-N-cyclohexyl-N-methylbenzamide | 0.89 g, 96% | NC1=C(C(=O)N(C)C2CCCCC2)C=CC=C1 | C14H20N2O
